US07585875B2
To a solution of 775 mg (2.5 mmol) of 1-(2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one oxime in 5 ml of anhydrous THF was added 2 ml of trimethylsilyl isocyanate (85%) dropwise at 0° C. over 30 minutes. The mixture was stirred at room temperature over 48 hours, followed by addition of 500 μl pyridine. After stirring for another 4 hours the solvent was removed, and the residue was extracted with ethyl acetate three times. The combined organic layers were washed with 10% citric acid twice and dried over MgSO4. After evaporation of the solvent, 900 mg of crude product was obtained, which was purified on an aluminum oxide column with hexane-dichloromethane-ethyl acetate as eluant to yield 263 mg (29.8%) of 1-(2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one O-carbamoyl oxime. Compound 1023.

reactant | 1-(2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one oxime | 2.5 mmol, 775 mg | COC1=CC=C(C=C1)C1=NN2C(C=CC=C2)=C1C(C(C)C)=NO | C18H19N3O2
reactant | trimethylsilyl isocyanate | 2 ml | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | pyridine | 500 μl | N1=CC=CC=C1 | C5H5N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one O-carbamoyl oxime | 263 mg, 29.8% | C(N)(=O)ON=C(C(C)C)C=1C(=NN2C1C=CC=C2)C2=CC=C(C=C2)OC | C19H20N4O3
